US08541588B2
1-[2-Hydroxy-5-(trifluoromethyl)phenyl]ethanone
To a stirred solution of 1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone (35 g, 0.160 mol) in dry dichloromethane (400 mL) at 0° C. was added solid tetrabutylammonium iodide (2.96 g, 0.008 mol) followed by boron tribromide (33.96 mL, 0.353 mol) dropwise. After addition, the reaction mixture was stirred at room temperature for 90 minutes. The reaction mixture was cooled to 0° C. and quenched with ice. The mixture was extracted with diethyl ether (1000 mL). The organic layer was washed with water (2000 mL) and then saturated aqueous sodium chloride (1000 mL). After concentration of the organic layer at room temperature in vacuo, the crude product was purified by column chromatography (100-200 silica gel, 2% v/v diethyl ether in hexane) to give 11.5 g (35%) of the title compound as a colourless oil.

reactant | 1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone | 0.160 mol, 35 g | COC1=C(C=C(C=C1)C(F)(F)F)C(C)=O | C10H9F3O2
reactant | boron tribromide | 0.353 mol, 33.96 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium iodide | 0.008 mol, 2.96 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[2-Hydroxy-5-(trifluoromethyl)phenyl]ethanone | 11.5 g, 35% | OC1=C(C=C(C=C1)C(F)(F)F)C(C)=O | C9H7F3O2
